US05405851
To a stirred suspension of 4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methoxy)benzoic acid (0.19 g, 0.53 mmol) and L-glutamic acid diethyl ester hydrochloride (0.14 g, 0.58 mmol) (Aldrich) in DMF (3 ml) were added diethyl cyanophosphonate (0.09 ml, 0.6 mmol) DMF (3 ml) were added diethyl cyanophosphonate (0.09 ml, 0.6 mmol) (Aldrich) and triethylamine (0.15 ml, 1.1 mmol). Additional DMF (7 ml) was added but homogeneous solution was not obtained. The reaction mixture was stirred 45 minutes at room temperature and TLC analysis indicated remaining benzoic acid. Diethyl cyanophosphonate (2 drops) was added, the mixture stirred 45 minutes, and was then concentrated in vacuo. The residue was purified by chromatography on silica gel (50 g) eluting with ethanol:methylene chloride (1:9). The solid was filtered from a small volume of ethanol and dried under reduced pressure to give diethyl N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methoxy)benzoyl)-L-glutamate (0.187 g). 1H NMR (DMSO-d6, 300 MHz) δ: 1.16 (t, J=7 Hz, 3H, ester CH3), 1.18 (t, J=7 Hz, 3H, ester CH3), 1.90-2.18 (m, 2H, glu CH2), 2.43 (t, J=7 Hz, 2H, glu CH2), 2.44 (s, 3H, C3 --CH3), 4.05 (q, J=7 Hz, 2H, ester CH2), 4.10 (q, J=6 Hz, 2H, ester CH2), 4.36-4.46 (m, 1H, glu CH), 5.43 (s, 2H, CH2O), 7.17 (d, J=9 Hz, 2H, Ar), 7.65 (d, J=9 Hz, 1H, Ar), 7.74 (dd, J=8,2 Hz, 1H, Ar), 7.88 (d, J=9 Hz, 2H, Ar), 8.08 (d, J=8 Hz, 1H, Ar), 8.26 (d, J=9 Hz, 1H, Ar), 8.58 (d, J=7 Hz, 1H, glu NH), 9.94 (s, 1H, Ar), 12.59 (s, 1H, N2H). Anal. Calculated for C30H31N3O7.1/4H2O: C, 65.50; H, 5.77; N, 7.64. Found: C, 65.54; H, 5.77; N, 7.61.

reactant | 4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methoxy)benzoic acid | 0.53 mmol, 0.19 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)COC3=CC=C(C(=O)O)C=C3 | C21H16N2O4
reactant | L-glutamic acid diethyl ester hydrochloride | 0.58 mmol, 0.14 g | Cl.C(C)OC([C@@H](N)CCC(=O)OCC)=O
reactant | diethyl cyanophosphonate | 0.6 mmol, 0.09 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | diethyl cyanophosphonate | 0.6 mmol, 0.09 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 1.1 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | Diethyl cyanophosphonate | 2 drops | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | diethyl N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methoxy)benzoyl)-L-glutamate | 0.187 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)COC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C30H31N3O7
